US05789623
Preparation of 2-diisopropylphosphino-2'-hydroxybiphenyl
46.9 g (0.2 mol) of 6-chloro-6H-dibenz[c,e][1,2]oxaphos-phorine in 250 ml of anhydrous o-xylene at 80° C. are introduced, in an argon atmosphere with stirring, and a solution of 0.45 mol of isopropylmagnesium bromide in 300 ml of tetrahydrofuran is added dropwise. Tetrahydrofuran is distilled off and the temperature slowly increased to 120° C. in the course of this. The mixture is then stirred for 3 hours at 120° C., cooled to room temperature and 100 ml of water are added. The mixture is neutralized with concentrated sulfuric acid, heated to 80° C. and the organic phase is separated off. During cooling, 51.7 g (90%) of colorless solid having melting point 82° to 84° C. crystallizes from the aqueous phase. 100 ml of 2N sodium hydroxide solution are added to this solid and the mixture is extracted with toluene. The toluene phase is separated off, washed with water, then dried with sodium sulfate and concentrated in vacuo. 38.9 g (68%) of colorless oil are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]oxaphos-phorine | 0.2 mol, 46.9 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | isopropylmagnesium bromide | 0.45 mol | C(C)(C)[Mg]Br
reactant | o-xylene | 250 ml | CC=1C=CC=CC1C | C8H10
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-diisopropylphosphino-2'-hydroxybiphenyl | 38.9 g, 68% | C(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)O)C(C)C | C18H23OP
